US09428510B2
tert-butyl 2-nitro-4-(pyridin-4-yl)benzoate
1.67 g of bis(triphenylphosphine)palladium(II)chloride (2.38 mmol) and 15.8 g of sodium carbonate (149 mmol) are added to a solution of 18 g of tert-butyl 4-bromo-2-nitrobenzoate (59.6 mmol) and 10.98 g of pyridine-4-ylboronic acid (89 mmol) in a mixture of 200 ml of dimethoxyethane and 100 mL of water. The reaction medium is heated at 100° C. for 24 hours and then concentrated under reduced pressure. The residue obtained is purified by flash chromatography (CH2Cl2/AcOEt: 100:0 to 70:30, 30 min). The product is isolated in the form of an oil which crystallizes to yield 14.64 g (82%) of crystals.

reactant | sodium carbonate | 149 mmol, 15.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 4-bromo-2-nitrobenzoate | 59.6 mmol, 18 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C11H12BrNO4
reactant | pyridine-4-ylboronic acid | 89 mmol, 10.98 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
solvent | water | 100 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 2.38 mmol, 1.67 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | tert-butyl 2-nitro-4-(pyridin-4-yl)benzoate | 14.64 g, 82% | [N+](=O)([O-])C1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CC=NC=C1 | C16H16N2O4
